US08729102B2
A mixture of tert-butyl [(1S)-2-{4-[6-(cyclopropylmethoxy)-2H-indazol-2-yl]phenoxy}-1-methylethyl]carbamate (310 mg) and 4M hydrogen chloride/ethyl acetate (5 mL) was stirred at room temperature for 1 hr. To the reaction mixture was added diethyl ether, the resultant precipitate was collected by filtration, and washed with ethyl acetate to give (2S)-1-{4-[6-(cyclopropylmethoxy)-2H-indazol-2-yl]phenoxy}propan-2-amine hydrochloride (255 mg). A mixture of (2S)-1-{4-[6-(cyclopropylmethoxy)-2H-indazol-2-yl]phenoxy}propan-2-amine hydrochloride (84 mg), (trimethyl)silyl isocyanate (78 mg), triethylamine (68 mg) and THF (1 mL) was stirred at room temperature overnight. The solvent was evaporated under reduced pressure, and the residue was diluted with ethyl acetate and THF, and the mixture was washed with water. The separated aqueous layer was extracted again with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as colorless crystals (39.5 mg).

reactant | tert-butyl [(1S)-2-{4-[6-(cyclopropylmethoxy)-2H-indazol-2-yl]phenoxy}-1-methylethyl]carbamate | 310 mg | C1(CC1)COC=1C=CC2=CN(N=C2C1)C1=CC=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C25H31N3O4
reactant | hydrogen chloride ethyl acetate | 4M, 5 mL | Cl.C(C)(=O)OCC
solvent | diethyl ether | C(C)OCC | C4H10O
product | (2S)-1-{4-[6-(cyclopropylmethoxy)-2H-indazol-2-yl]phenoxy}propan-2-amine hydrochloride | 255 mg | Cl.C1(CC1)COC=1C=CC2=CN(N=C2C1)C1=CC=C(OC[C@H](C)N)C=C1 | InChI=1S/C20H23N3O2.ClH/c1-14(21)12-24-18-8-5-17(6-9-18)23-11-16-4-7-19(10-20(16)22-23)25-13-15-2-3-15;/h4-11,14-15H,2-3,12-13,21H2,1H3;1H/t14-;/m0./s1
